US07423150B2
2. Synthesis of 1-methyl-N-(4-{[4-(methylamino)-3-nitrophenyl]oxy}pyridin-2-yl)piperidine-4-carboxamide
To a mixture of 1-methylpiperidine-4-carboxylic acid (1 eq) in N,N-dimethyl formamide and N,N-disopropylethylamine (4 eq) was added BOP (2 eq) and the mixture was stirred at ambient temperature until homogeneous. To it was added [4-(2-amino(4-pyridyloxy))-2-nitrophenyl]methylamine (1 eq) and the resulting mixture was stirred at 60° C. for 16 h. The reaction mixture was then concentrated and partitioned between ethyl acetate and water. The organic layer was dried over sodium sulfate and the resulting 1-methyl-N-(4-{[4-(methylamino)-3-nitrophenyl]oxy}pyridin-2-yl)piperidine-4-carboxamide was purified by silica gel chromatography. MS: MH+=386.2.

reactant | 1-methylpiperidine-4-carboxylic acid | 1 eq | CN1CCC(CC1)C(=O)O | C7H13NO2
reactant | BOP | 2 eq | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | [4-(2-amino(4-pyridyloxy))-2-nitrophenyl]methylamine | 1 eq | NC1=NC=CC(=C1)OC1=CC(=C(C=C1)CN)[N+](=O)[O-] | C12H12N4O3
solvent | N,N-dimethyl formamide | CN(C=O)C | C3H7NO
product | 1-methyl-N-(4-{[4-(methylamino)-3-nitrophenyl]oxy}pyridin-2-yl)piperidine-4-carboxamide | CN1CCC(CC1)C(=O)NC1=NC=CC(=C1)OC1=CC(=C(C=C1)NC)[N+](=O)[O-] | C19H23N5O4
